US09376441B2
Into a microwave reaction vial, a mixture of (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (100.0 mg, 0.27 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (168.4 mg, 0.82 mmol), sodium carbonate (116.0 mg, 1.10 mmol) and Pd(PPh3)4 (31.6 mg, 0.027 mmol) were placed in dioxane (4 mL) and water (1 mL). The reaction mixture was placed in the microwave reactor and heated at 150° C. for 30 min. Then, it was filtered through a pad of Celite and partitioned between EtOAc (2×30 mL) and brine (2×10 mL). The combined organic layers were washed with water (2×5 mL), concentrated, and purified by flash chromatography (100% EtOAc to 20% MeOH in EtOAc) to give 52.0 mg (52.3%) of (R)-4-((R)-1-((3-cyclopropyl-6-(pyridin-4-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, DMSO-d6) δ 8.44 (dd, J=1.8, 1.2 Hz, 2H), 8.162 (s, 1H), 7.896-7.863 (m, 3H), 7.383 (s, 1H), 5.438-5.398 (m, 1H), 3.551-3.492 (m, 1H), 3.22 (t, J=9.5 Hz, 1H), 3.03 (dd, J=6.6, 6.6 Hz, 1H), 2.701-2.633 (m, 1H), 2.15 (dd, J=2.3, 1.7 Hz, 2H), 1.24 (d, J=6.5 Hz, 3H), 1.0-0.828 (m, 4H). LCMS-ESI+ (m/z): [M+H]+ calcd C20H21N5O2: 363.17; found 364.14.

reactant | (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | BrC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17BrN4O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.82 mmol, 168.4 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | sodium carbonate | 1.10 mmol, 116.0 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.027 mmol, 31.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-4-((R)-1-((3-cyclopropyl-6-(pyridin-4-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 52.0 mg, 52.3% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=NC=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C20H21N5O2
